US06329370B1
3-(6-Methoxy-4-oxo-3,4-dihydro-phthalazin-1-yl)-propionic acid ethyl ester (Compound 70)
Operating analogously to what described in example 113 starting from potassium 2-ethoxycarbonyl-ethenolate (771 mg, 5 mmoles), (5-methoxy-3-oxo-1,3-dihydro-isobenzofuran-1-yl)triphenyl-phosphonium bromide (2.53 g, 5 mmoles), prepared as described in example 36, CH2Cl2 (20 ml) and hydrazine monohydrate (250 mg, 5 mmoles) in ethanol (20 ml), 0.52 g of the title compound were obtained.

reactant | potassium 2-ethoxycarbonyl-ethenolate | 5 mmoles, 771 mg | C(C)OC(=O)C=C[O-].[K+]
reactant | (5-methoxy-3-oxo-1,3-dihydro-isobenzofuran-1-yl)triphenyl-phosphonium bromide | 5 mmoles, 2.53 g | [Br-].COC=1C=C2C(OC(C2=CC1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O
reactant | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
reactant | hydrazine monohydrate | 5 mmoles, 250 mg | O.NN
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-(6-Methoxy-4-oxo-3,4-dihydro-phthalazin-1-yl)-propionic acid ethyl ester | 0.52 g | C(C)OC(CCC1=NNC(C2=CC(=CC=C12)OC)=O)=O | C14H16N2O4
